US04166115
A mixture of dimethylformamide (0.22 g.) and phosphorus oxychloride (0.46 g.) was warmed for 1 hour at 40° C. The mixture was dissolved in dry methylene chloride (20 ml.) and 2-methoxyimino-2-(2-mesylimino-3-methyl-2,3-dihydro-1,3-thiazol-4-yl)acetic acid (anti isomer) (0.73 g.) was added thereto with stirring and ice-cooling, after which the resulting mixture was stirred for 1.5 hours under ice-cooling. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (0.82 g.) was dissolved in a solution of bis(trimethylsilyl)acetamide (1.5 g.) in dry methylene chloride (20 ml.). To this solution was added at -30° C. the above obtained methylene chloride solution, after which the mixture was stirred for 2 hours at -5° to -20° C. After distilling off methylene chloride at low temperature, water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with a sodium chloride aqueous solution and water (50 ml.) was added thereto. The resulting mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate and the aqueous layer was separated. The aqueous layer was adjusted to pH 1.5, saturated with sodium chloride and extracted with ethyl acetate. The extract was washed with a sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off and the residue was pulverized by a mixture of diisopropyl ether and ether. The powder was collected by filtration and dried to give 7-[2-methoxyimino-2-(2-mesylimino-3-methyl-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (anti isomer) (1.0 g.). This powder (1.0 g.) was suspended in water (30 ml.) and dissolved by adjusting to pH 6 by an aqueous solution of sodium bicarbonate. After removing the solvent by bubbling of nitrogen gas, the aqueous solution was lyophilized to give sodium 7-[2-methoxyimino-2-(2-mesylimino-3-methyl-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (anti isomer) (0.98 g.).

reactant | dimethylformamide | 0.22 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.46 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-mesylimino-3-methyl-2,3-dihydro-1,3-thiazol-4-yl)acetic acid | 0.73 g | CON=C(C(=O)O)C=1N(C(SC1)=NS(=O)(=O)C)C | C8H11N3O5S2
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.82 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | bis(trimethylsilyl)acetamide | 1.5 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-methoxyimino-2-(2-mesylimino-3-methyl-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N(C(SC1)=NS(=O)(=O)C)C | C18H21N9O7S4
